US08912188B2
To a solution of methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (120 mg, 0.49 mmol) in dioxane (5 mL) was added 4-carbamoylphenylboronic acid (169 mg, 1.02 mmol), K3PO4 (217 mg, 1.02 mmol), Pd(PPh3)4 (30 mg, 0.03 mmol) and water (5 drops). The resulting solution was stirred for 1 hour at 90° C. and then concentrated in vacuo to give a residue, which was purified via silica gel column chromatography (9% ethyl acetate in petroleum ether) to afford methyl 2-(4-carbamoylphenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate as a yellow solid (103 mg, 66%).

reactant | methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.49 mmol, 120 mg | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C14H16ClN3O2
reactant | 4-carbamoylphenylboronic acid | 1.02 mmol, 169 mg | C(N)(=O)C1=CC=C(C=C1)B(O)O | C7H8BNO3
reactant | K3PO4 | 1.02 mmol, 217 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | water | 5 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.03 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(4-carbamoylphenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 103 mg, 66% | C(N)(=O)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C21H22N4O3
